US04122186
(1) 3,4-Dichlorobenzylthioacetic acid
A mixture of 19.5 g (0.1 mol) of 3,4-dichlorobenzylchoride and 7.6 g (0.1 mol) of thiourea in 50 ml of water are heated under reflux for 30 minutes with stirring, and then a solution of 16 g (0.4 mol) of NaOH in 25 ml of water is run in at 60°-70° C.; the mixture is heated under reflux for 15 minutes, a solution of 15 g (0.15 mol) of chloroacetic acid, 7 g of sodium carbonate and 50 ml of water is run in at 60°-70° C., and the mixture is maintained under reflux for 1 hour. The mixture is acidified cold with concentrated HCl, extracted with ether, and the extract is washed with water, dried and evaporated. The residue is taken up in petroleum ether and filtered off. 21 g of the stated product are obtained (yield: 83%) melting point: 63°-64° C.

reactant | 3,4-dichlorobenzylchoride | 0.1 mol, 19.5 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | thiourea | 0.1 mol, 7.6 g | NC(=S)N | CH4N2S
reactant | NaOH | 0.4 mol, 16 g | [OH-].[Na+]
reactant | chloroacetic acid | 0.15 mol, 15 g | ClCC(=O)O | C2H3ClO2
reactant | sodium carbonate | 7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | water | 25 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 3,4-Dichlorobenzylthioacetic acid | 21 g, yield: 83% | ClC=1C=C(CCC(=S)O)C=CC1Cl | C9H8Cl2OS
